US07741327B2
To a solution of {(1S,3R)-3-ethoxy-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-butyl}-carbamic acid t-butyl ester (306 mg) in dichloromethane (3 mL) was added trifluoroacetic acid (2 mL). The solution was stirred at room temperature for 30 min. Solvents were evaporated and the residue was dried in vacuo. The resulting waxy material was dissolved in methanolic hydrogen chloride solution (5 mL). Solvents were evaporated and the residue was dried in vacuo. The white solid was triturated with dry diethyl ether and filtered to afford (2S,4R)-2-amino-4-ethoxy-pentanoic acid [1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-amide hydrochloride (274 mg). For the neutral free amine, LR-ES-MS m/z calculated for C14H26N4O3 [M]+298, observed [M+H]+ 299.

reactant | {(1S,3R)-3-ethoxy-1-[1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-ylcarbamoyl]-butyl}-carbamic acid t-butyl ester | 306 mg | C(C)(C)(C)OC(N[C@@H](C[C@@H](C)OCC)C(NC1=NN(C=C1)CC(C)(C)O)=O)=O | C19H34N4O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | (2S,4R)-2-amino-4-ethoxy-pentanoic acid [1-(2-hydroxy-2-methyl-propyl)-1H-pyrazol-3-yl]-amide hydrochloride | 274 mg | Cl.OC(CN1N=C(C=C1)NC([C@H](C[C@@H](C)OCC)N)=O)(C)C | InChI=1S/C14H26N4O3.ClH/c1-5-21-10(2)8-11(15)13(19)16-12-6-7-18(17-12)9-14(3,4)20;/h6-7,10-11,20H,5,8-9,15H2,1-4H3,(H,16,17,19);1H/t10-,11+;/m1./s1
